US05547962
Ethyl (2,4,5-trifluoro-3-methyl-6-nitrobenzoyl)acetate
A suspension of 45.3 g of diethyl (2,4,5-trifluoro-3-methyl-6-nitrobenzoyl)malonate and 30 mg of p-toluenesulfonic acid in 120 ml of water was heated at reflux for 50 minutes. After cooling, the reaction mixture was extracted with diethyl ether. The combined organic extracts were washed with brine, dried and evaporated to give 34.2 g of the desired compound as brown oil.

reactant | diethyl (2,4,5-trifluoro-3-methyl-6-nitrobenzoyl)malonate | 45.3 g | FC1=C(C(=O)C(C(=O)OCC)C(=O)OCC)C(=C(C(=C1C)F)F)[N+](=O)[O-] | C15H14F3NO7
reactant | p-toluenesulfonic acid | 30 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | 120 ml | O | H2O
product | Ethyl (2,4,5-trifluoro-3-methyl-6-nitrobenzoyl)acetate | 34.2 g | FC1=C(C(=O)CC(=O)OCC)C(=C(C(=C1C)F)F)[N+](=O)[O-] | C12H10F3NO5
